US04950677
100 mg of intramolecularly deprotonized 2-[[(2-chloro-2-methylpropyl)thio]methyl]-4-methoxy-3-methyl-1-[5-(trifluoromethyl)-2-benzimidazolyl]pyridinium cation were dissolved in 5 ml of ethyl acetate, whereupon 0.5 ml of 4.7N methanolic hydrochloric acid was added, the solution was concentrated and the residue was crystallized from tert.-butyl methyl ether/ether. The 2-[[(2-chloro-2-methylpropyl)thio]methyl]-4-methoxy-3-methyl-1-[5-(trifluoromethyl)-2-benzimidazolyl]pyridinium chloride obtained exhibited a melting point of 140°-142° (decomposition).

reactant | 2-[[(2-chloro-2-methylpropyl)thio]methyl]-4-methoxy-3-methyl-1-[5-(trifluoromethyl)-2-benzimidazolyl]pyridinium | ClC(CSCC1=[N+](C=CC(=C1C)OC)C=1NC2=C(N1)C=CC(=C2)C(F)(F)F)(C)C
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 4.7N, 0.5 ml | Cl | ClH
product | 2-[[(2-chloro-2-methylpropyl)thio]methyl]-4-methoxy-3-methyl-1-[5-(trifluoromethyl)-2-benzimidazolyl]pyridinium chloride | [Cl-].ClC(CSCC1=[N+](C=CC(=C1C)OC)C=1NC2=C(N1)C=CC(=C2)C(F)(F)F)(C)C | InChI=1S/C20H22ClF3N3OS.ClH/c1-12-16(10-29-11-19(2,3)21)27(8-7-17(12)28-4)18-25-14-6-5-13(20(22,23)24)9-15(14)26-18;/h5-9H,10-11H2,1-4H3,(H,25,26);1H/q+1;/p-1
